US08937078B2
Step A: Preparation of 2-(2-chloro-4-nitro-phenyl)-1,2,3,4-tetrahydro-isoquinoline.
A mixture of 3,4-dichloronitrobenzene (1.0 g, 5.2 mmol), 1,2,3,4-tetrahydroisoquinoline (0.97 g, 7.3 mmol), K2CO3 (3.6 g, 26 mmol), and DMSO (20 mL) was heated to 80° C. for 16 h with stirring. The mixture was allowed to cool to rt, and was then poured over ice. The resulting precipitate was collected by filtration and dried to provide the titled compound (1.5 g, 98%). MS (ESI): mass calcd. for C15H13ClN2O2, 288.7; m/z found, 289.1 [M+H]+.

reactant | 3,4-dichloronitrobenzene | 5.2 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | 1,2,3,4-tetrahydroisoquinoline | 7.3 mmol, 0.97 g | C1NCCC2=CC=CC=C12 | C9H11N
reactant | K2CO3 | 26 mmol, 3.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 2-(2-chloro-4-nitro-phenyl)-1,2,3,4-tetrahydro-isoquinoline | 1.5 g, 98% | ClC1=C(C=CC(=C1)[N+](=O)[O-])N1CC2=CC=CC=C2CC1 | C15H13ClN2O2
